US07659268B2
N-(6-Cyclohexenyl-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide (82.4 mg, 0.200 mmol) was added to a flask containing 20 mg of 10% palladium on carbon under an atmosphere of argon. Methanol (5 mL) was added and then the reaction atmosphere was replaced with an atmosphere of hydrogen. The mixture was stirred vigorously for 16 hours. The atmosphere was then replaced with argon. The mixture was filtered, evaporated to dryness, and then purified on silica gel utilizing a gradient of 0-30% ethyl acetate in hexanes to yield N-(6-cyclohexyl-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclo-propanecarboxamide. ESI-MS m/z calc. 414.2, found; 415.1 (M+1)+ Retention time 1.78 minutes.

reactant | N-(6-Cyclohexenyl-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | 0.200 mmol, 82.4 mg | C1(=CCCCC1)C1=C(C=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)C | C23H22F2N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
solvent | Methanol | 5 mL | CO | CH4O
product | N-(6-cyclohexyl-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclo-propanecarboxamide | C1(CCCCC1)C1=C(C=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)C | C23H24F2N2O3
